US07057046B2
(R)-4-(5-chloroindole-2-carbonylamino)-2,3,4,5-tetrahydro-2-benzazepin-3(1H)-one
(R)-4-amino-2,3,4,5-tetrahydro-2-benzazepin-3(1H)-one hydrochloride salt (387 mg) (amine free base prepared in U.S. Pat. No. 5,545,735) was added to a mixture of tetrahydrofuran (40 mL), 5-chloroindole-2-carboxylic acid (356 mg), 1-hydroxy-7-azabenzotriazole (272 mg), and 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (382 mg) at room temperature. Diisopropylethylamine (202 mg) was added, and the resulting yellow suspension was stirred under argon for 16 h, during which a solution formed. The solution was evaporated under vacuum and the residue was redissolved in ethyl acetate (100 mL). This was washed sequentially with 1.0 M aqueous hydrochloric acid (50 mL), 1.0 M aqueous sodium hydroxide (50 mL), water (50 mL) and brine (50 mL), dried over anhydrous sodium sulfate, and evaporated under vacuum. The resulting solid crude product was triturated with 20% methanol in diethyl ether (20 mL four times). Drying under vacuum provided pure title compound (283 mg). HPLC/MS [M+H]+, 354.

reactant | (R)-4-amino-2,3,4,5-tetrahydro-2-benzazepin-3(1H)-one hydrochloride salt | 387 mg | Cl.N[C@H]1C(NCC2=C(C1)C=CC=C2)=O
reactant | 5-chloroindole-2-carboxylic acid | 356 mg | ClC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6ClNO2
reactant | 1-hydroxy-7-azabenzotriazole | 272 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 382 mg | Cl.CN(CCCN=C=NCC)C
reactant | Diisopropylethylamine | 202 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | (R)-4-(5-chloroindole-2-carbonylamino)-2,3,4,5-tetrahydro-2-benzazepin-3(1H)-one | 283 mg | ClC=1C=C2C=C(NC2=CC1)C(=O)N[C@H]1C(NCC2=C(C1)C=CC=C2)=O | C19H16ClN3O2
